data/rdb19/train.csv
rxn,smiles,ea
3172,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22](=[C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])[H:32])([H:29])([H:30])[H:31].[C:5]([H:15])([H:16])([H:17])[H:33],77.99055019835941
1248,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[N:18]([C:19](=[O:20])[H:31])[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],21.223113809945065
4214,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34],65.99423848767765
424,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([C:11]([H:24])([H:25])[H:26])[C:12](=[O:13])[O:14][C:15]([H:27])([H:28])[H:29])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1]([O:2][O:3][C:8]([C:7]([H:16])([H:17])[H:18])([H:19])[H:20])([H:4])([H:5])[H:6].[C:9]([C:10]([H:21])([H:22])[H:23])([C:11]([H:24])([H:25])[H:26])[C:12](=[O:13])[O:14][C:15]([H:27])([H:28])[H:29],60.70254513481632
4231,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],54.02543907536892
2320,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[C:10]([C:9]([C:8]([H:14])([H:15])[H:16])[C:11](=[O:12])[O:13][H:19])([H:17])[H:18])([H:5])([H:6])[H:7],11.48897277735523
2282,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:11]([H:22])([H:23])[H:24].[C:1]([C:2]([H:3])([H:4])[C:10]([C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:5])([H:6])[H:7],68.45539264456602
1715,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],14.642896538309287
1503,[C:10]([C:11]([C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:23])([H:20])([H:21])[H:22].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:24])[H:6],51.597537124936935
5137,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7][c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[H:21][C:27]([C:26]([C:25]([H:34])([H:35])[H:36])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:28])[H:29],24.72572684218176
818,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:19]([H:20])([H:21])[H:22],16.293988688499667
